US06495565B2
Di tert-butyl dicarbonate (1.45 gm, 6.6 mmol) was added to a solution of 1-benzyl-5-methyl-3-pyrrolidinone (1.13 gm, 6.0 mmol) in ethyl acetate (30 ml) and palladium hydroxide. The reaction was pressured to 50 psi hydrogen and shaken for 18 h. The reaction was filtered, concentrated and purified by flash chromatography to give N-Boc-5-methyl-3-pyrrolidinone (0.87 gm, 54%) as an oil.

reactant | Di tert-butyl dicarbonate | 6.6 mmol, 1.45 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-benzyl-5-methyl-3-pyrrolidinone | 6.0 mmol, 1.13 gm | C(C1=CC=CC=C1)N1CC(CC1C)=O | C12H15NO
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | N-Boc-5-methyl-3-pyrrolidinone | 0.87 gm, 54% | C(=O)(OC(C)(C)C)N1CC(CC1C)=O | C10H17NO3
